US08383637B2
3-(3-Dimethoxymethyl-4-nitro-phenoxy)-benzonitrile
A mixture of 3-cyanophenol (0.38 mol) in ethanol (600 mL) was stirred at room temperature and K2CO3 (0.29 mol) was added. 5-fluoro-2-nitrobenzaldehyde (0.18 mol) was added, and the reaction mixture was stirred and refluxed for 4 hours. The solvent was evaporated, and the residue was stirred in water and extracted with CH2Cl2. The organic layer was separated, dried, filtered off and the solvent was evaporated. The residue was triturated under diisopropyl ether, and then the formed solids were filtered off and dried to yield the title compound.

reactant | 3-cyanophenol | 0.38 mol | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | K2CO3 | 0.29 mol | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-fluoro-2-nitrobenzaldehyde | 0.18 mol | FC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4FNO3
reactant | ethanol | 600 mL | C(C)O | C2H6O
product | 3-(3-Dimethoxymethyl-4-nitro-phenoxy)-benzonitrile | COC(C=1C=C(OC=2C=C(C#N)C=CC2)C=CC1[N+](=O)[O-])OC | C16H14N2O5
